US08053453B2
Synthesis of 5-carboxy-2-thiophenecarboxylic acid N′-(1-(1-(4-tert-butylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide
14.9 mg (0.033 mmol) of 5-methoxycarbonyl-2-thiophenecarboxylic acid N′-(1-(1-(4-tert-butylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide in 1.5 mL of methanol was stirred with 164 μL (0.164 mmol) of 1M aqueous sodium hydroxide at room temperature for 17 hours. After the stirring, 164 μL (0.164 mmol) of 1M hydrochloric acid was added, and the precipitated solid was collected by filtration to obtain 6.8 mg of the desired product as a pale yellow solid (yield 47%).

reactant | 5-methoxycarbonyl-2-thiophenecarboxylic acid N′-(1-(1-(4-tert-butylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | 0.033 mmol, 14.9 mg | C(C)(C)(C)C1=CC=C(C=C1)N1N=C(C(C1=O)=C(C)NNC(=O)C=1SC(=CC1)C(=O)OC)C | C23H26N4O4S
reactant | sodium hydroxide | 0.164 mmol, 1M, 164 μL | [OH-].[Na+]
reactant | hydrochloric acid | 0.164 mmol, 1M, 164 μL | Cl | ClH
solvent | methanol | 1.5 mL | CO | CH4O
product | 5-carboxy-2-thiophenecarboxylic acid N′-(1-(1-(4-tert-butylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | 6.8 mg, yield 47% | C(C)(C)(C)C1=CC=C(C=C1)N1N=C(C(C1=O)=C(C)NNC(=O)C=1SC(=CC1)C(=O)O)C | C22H24N4O4S
